US06943169B2
A 500 ml round bottom flask fitted with overhead stirring was charged with 16.5 grams (55 mmole) of methyl 3-bromo-5-methoxy-4-aminobenzoate in 80 ml ethanol, 15 ml sulfuric acid and 20 ml acetic acid. The solution was chilled in an ice bath and 6.6 gms (95 mmole) of sodium nitrite in 30 ml water was added dropwise while maintaining the temperature below 10° C. After stirring an additional 25 minutes, 100 ml of 50% hypophosphoric acid was added and the mixture was stirred cold for 2 hours. The reaction mixture was diluted with 500 ml water, extracted with ether, and then evaporated under reduced pressure to give 13.5 grams of methyl 3-bromo-5-methoxybenzoate as a reddish oil.

reactant | methyl 3-bromo-5-methoxy-4-aminobenzoate | 55 mmole, 16.5 grams | BrC=1C=C(C(=O)OC)C=C(C1N)OC | C9H10BrNO3
reactant | sodium nitrite | 95 mmole, 6.6 gms | N(=O)[O-].[Na+]
reactant | hypophosphoric acid | 100 ml | P(=O)(O)(O)P(=O)(O)O | H4O6P2
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | methyl 3-bromo-5-methoxybenzoate | 13.5 grams | BrC=1C=C(C(=O)OC)C=C(C1)OC | C9H9BrO3
